US04380645
To a stirred suspension of dimethyl 1-methyl-3-[(m-methylphenoxy)methyl]pyrrole-2,5-dicarboxylate (0.32 g, 0.001 m) in a mixture of methanol (10 ml) and water (6 ml), ice cooling, was added under a nitrogen atmosphere 2.5 N sodium hydroxide solution (1.2 ml). The mixture was allowed to come to room temperature, and then set in an oil-bath at 50° C., the temperature of the bath raised to 75° C., and kept at this temperature for ca. one hour. After stirring overnight at ambient temperature, water (55 ml) was added over 5 minutes, the mixture filtered, the volume of the filtrate adjusted to 100 ml with water, and the stirred filtrate acidified dropwise with 2 ml of 2 N hydrochloride acid. After aging for 20 minutes, the mixture was filtered, the precipitate washed with water and dried to give 0.27 g (90%) of 1-methyl-3-[(m-methylphenoxy)methyl]-pyrrole-2,5-dicarboxylic acid.

reactant | dimethyl 1-methyl-3-[(m-methylphenoxy)methyl]pyrrole-2,5-dicarboxylate | 0.32 g | CN1C(=C(C=C1C(=O)OC)COC1=CC(=CC=C1)C)C(=O)OC | C17H19NO5
reactant | sodium hydroxide | 2.5 N, 1.2 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
solvent | water | 55 ml | O | H2O
product | 1-methyl-3-[(m-methylphenoxy)methyl]-pyrrole-2,5-dicarboxylic acid | 0.27 g, 90% | CN1C(=C(C=C1C(=O)O)COC1=CC(=CC=C1)C)C(=O)O | C15H15NO5
